US07262206B2
(18) 1,5-diacetyl-3-[(2,6-difluoro-phenyl)-hydroxy-methylidene]-2-indolinone
Prepared from 1,5-diacetyl-2-indolinone and 2,6-difluorobenzoic acid

reactant | 1,5-diacetyl-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)C(C)=O)=O | C12H11NO3
reactant | 2,6-difluorobenzoic acid | FC1=C(C(=O)O)C(=CC=C1)F | C7H4F2O2
product | 1,5-diacetyl-3-[(2,6-difluoro-phenyl)-hydroxy-methylidene]-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(O)C1=C(C=CC=C1F)F)=O | C19H13F2NO4
